US07960391B2
To a chilled stirred suspension of sodium hydride (60% in oil, 34.55 mmol) in tetrahydrofuran (20 mL) was added 1.17 g of ethyl cyanoacetate (10.34 mmol) portionwise over 10 minutes. After effervescence has ceased, the yellow cloudy mixture was left to warm up to room temperature whilst stirring. 2.00 g of 5-bromo,2-bromo-pyrimidine (10.34 mmol) in 30 mL of tetrahydrofuran was added. And the mixture was left to stir at room temperature for six hours. The resultant brown mixture was concentrated under reduced pressure to give a bright brown precipitate to which water (200 mL) was added. After extraction with heptane (200 mL), the aqueous phase was acidified by the addition of HCl 1M and the resultant precipitate was collected by filtration to give on drying ethyl (5-bromopyrimidin-2-yl)(cyano)acetate as a bright brown powder (0.67 g, yield=24%).

reactant | sodium hydride | 34.55 mmol | [H-].[Na+]
reactant | ethyl cyanoacetate | 10.34 mmol, 1.17 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 5-bromo,2-bromo-pyrimidine | 10.34 mmol, 2.00 g | BrC=1C=NC(=NC1)Br | C4H2Br2N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | ethyl (5-bromopyrimidin-2-yl)(cyano)acetate | 0.67 g, yield=24% | BrC=1C=NC(=NC1)C(C(=O)OCC)C#N | C9H8BrN3O2
